US05990142
1I 5-Bromo-2-hydroxy-3-nitroacetophenone
A solution of 5-bromo-2-hydroxyacetophenone (23.7 g, 0.110 mol) in carbon tetrachloride (90 ml) was added with concentrated nitric acid (17.2 ml). The mixture was left under stirring at 75° C. for 50 minutes, then left to cool at room temperature. The precipitated solid was recovered by filtration washing with cold carbon tetrachloride. After drying under vacuum, 20.9 g of the title product were obtained as a light yellow solid (73% yield).

reactant | 5-bromo-2-hydroxyacetophenone | 0.110 mol, 23.7 g | CC(=O)C1=C(C=CC(=C1)Br)O | C8H7BrO2
reactant | nitric acid | 17.2 ml | [N+](=O)(O)[O-] | HNO3
solvent | carbon tetrachloride | 90 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromo-2-hydroxy-3-nitroacetophenone | 20.9 g | CC(=O)C1=CC(=CC(=C1O)[N+](=O)[O-])Br | C8H6BrNO4
